US04489003
A mixture of 3.45 g (10 mmol) of ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 100 mg (1.5 mmol) of potassium cyanide and 20 ml of 4-methoxybenzyl alcohol is stirred at 110° for 3.5 days, the resulting ethanol being removed in vacuo from time to time. The solvent is subsequently removed by distillation in a high vacuum, the residue is taken up in methylene chloride, the methylene chloride solution is washed three times with water, dried over magnesium sulphate and evaporated. The crude product is chromatographed on silica gel while eluting with ethyl acetate. By recrystallization from ethyl acetate there is obtained p-methoxybenzyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 185°-186°.

reactant | ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 10 mmol, 3.45 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CCC1)=O | C17H16ClN3O3
reactant | potassium cyanide | 1.5 mmol, 100 mg | [C-]#N.[K+]
reactant | 4-methoxybenzyl alcohol | 20 ml | COC1=CC=C(CO)C=C1 | C8H10O2
product | p-methoxybenzyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC3=CC=C(C=C3)OC)CCC1)=O | C23H20ClN3O4
